US04824834
5-Chloromethyl-4-fluoro-2-methylthiotoluene (21 g) is dissolved in N,N-dimemthylformamide (90 ml), and thereto is added finely divided sodium cyanide (6.03 g), and the mixture is stirred at room temperature for 18 hours. To the reaction mixture are added saturated aqueous sodium chloride solution (300 ml) and ice water (300 ml), and the mixture is extracted with ethyl acetate (300 ml×3). The combined extracts are washed with saturated aqueous sodium chloride solution (200 ml×3), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 5-cyanomethyl-4-fluoro-2-methylthiotoluene.

reactant | 5-Chloromethyl-4-fluoro-2-methylthiotoluene | 21 g | ClCC=1C(=CC(=C(C1)C)SC)F | C9H10ClFS
reactant | sodium cyanide | 6.03 g | [C-]#N.[Na+]
reactant | sodium chloride | 300 ml | [Cl-].[Na+]
product | 5-cyanomethyl-4-fluoro-2-methylthiotoluene | C(#N)CC=1C(=CC(=C(C1)C)SC)F | C10H10FNS
